reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]([O+:3]=[C-:2][O:4]/[C:5](=[N:6]/[H:11])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[O:3])[O:4]/[C:5](=[N:6]/[H:11])[H:10])([H:7])([H:8])[H:9],46.108240628446595
[C:1]([C:2]([C@@:3]([O:4][H:13])([C:5](=[O:6])[H:14])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C+:3]([O:4][H:13])=[C:5]([O-:6])[H:14].[C:1]([C:2]([H:10])([H:11])[H:12])([H:7])([H:8])[H:9],77.22236714978001
[O:1]=[C:2]([C@@:3]1([H:7])[C:4]([H:8])([H:9])[N:5]1[H:10])[H:6]>>[O:1](/[C:2](=[C:3]1\[C:4]([H:8])([H:9])[N:5]1[H:10])[H:6])[H:7],74.7735597559261
[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4]([H:13])([H:14])[H:15])[C:5]#[N:6])([H:7])([H:8])[H:9]>>[C:1]([C:2]1([C:3]([H:10])([H:11])[H:12])[C:4]([H:14])([H:15])/[C:5]1=[N:6]\[H:13])([H:7])([H:8])[H:9],105.91208564175899
[C:1]([C:2](=[O:3])[C:4](=[O:5])[N:6]([H:12])[H:13])([H:7])([H:8])[H:10].[H:9][H:11]>>[C:1]([C@@:2]([O:3][H:11])([C:4](=[O:5])[N:6]([H:12])[H:13])[H:10])([H:7])([H:8])[H:9],81.7089313463566
[C:1](/[C:2](=[N:3]/[H:10])[O:4][C:5](=[O:6])[H:11])([H:7])([H:8])[H:9]>>[C:1]([N:3]=[C:2]=[O:4])([H:7])([H:8])[H:9].[C:5](=[O:6])([H:10])[H:11],87.9277593644466
[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C+:4]=[C:6]=[N-:7])[H:11])([H:8])([H:9])[H:10].[C:5]([H:15])([H:16])([H:17])[H:18]>>[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C@@:4]([C:5]([H:16])([H:17])[H:18])([C:6]#[N:7])[H:15])[H:11])([H:8])([H:9])[H:10],5.93671423647659
[C:1]([O:6]/[C:5](=[C:2](/[C:3](=[O:4])[H:12])[H:11])[N:7]([H:13])[H:14])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([C:3](=[O:4])[H:12])([C:5](=[O:6])[N:7]([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],63.669382977554
[O-:1][N+:2]#[C:3][C:4]([N:5]([C:6]([H:7])([H:11])[H:12])[H:10])([H:8])[H:9]>>[O:1]([N:2]=[C:3]1[C:4]([H:8])([H:9])[N:5]([H:10])[C:6]1([H:11])[H:12])[H:7],65.11309227191535
[C:1]([N:2](/[C:3](=[N:4]/[H:11])[C:5]#[N:6])[H:10])([H:7])([H:8])[H:9]>>[C:1]([N:2]([C:3][N:4]([C:5]#[N:6])[H:11])[H:10])([H:7])([H:8])[H:9],75.09637143600841
[C:1]([C:2]([C:3]([C:4]([C:5]#[N:6])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([C:4](=[C:5]=[N:6][H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],92.90680811504907
[C:1]([C:2](=[O:3])[C:4]([C:5](=[O:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1](=[C:2]1[O:3][C@:5]([O:6][H:7])([H:12])[C:4]1([H:10])[H:11])([H:8])[H:9],64.16269587317021
[C:1]([C:2]([C:3]([C:4][C:5]([H:15])([H:16])[H:17])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9].[C:6]([H:14])([H:18])([H:19])[H:20]>>[C:1]([C:2]([C:3]([C:4]([C:5]([H:15])([H:16])[H:17])([C:6]([H:18])([H:19])[H:20])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],9.610060109812892
[C:1]([C:2](=[O:3])[C:4]([C:5](=[O:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[O:3])[C:4]([C:5][O:6][H:12])([H:10])[H:11])([H:7])([H:8])[H:9],74.4550057812948
[C:1]([O:2][C@@:3]([C:4]([H:11])([H:12])[H:13])([C:5]([O:6][H:16])([H:14])[H:15])[H:10])([H:7])([H:8])[H:9]>>[C:1]([O:2][H:16])([H:7])([H:8])[H:9].[C@:3]1([C:4]([H:11])([H:12])[H:13])([H:10])[C:5]([H:14])([H:15])[O:6]1,71.7975499660875
[C:1]([C:2]([C@@:3]([O:4][H:13])([C:5]#[C:6][H:14])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1](=[C:2]([H:10])[H:11])([H:8])[H:9].[C:3]([O:4][H:13])(=[C:5]=[C:6]([H:7])[H:14])[H:12],57.23262622813029
[C:1]([C:2]1([C:3]([H:10])([H:11])[H:12])[C:5]([O:4][H:13])=[N:6]1)([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([O:4][H:13])[C:5]#[N:6])([H:7])([H:8])[H:9],55.2603368775404
[O:1]=[C:2]1[C:3]([H:7])([H:8])[N+:4]2([H:10])[C-:5]([H:9])[C@@:6]12[H:11]>>[O:1]=[C:2]1[C:3]([H:7])([H:8])[N:4]2[C:5]([H:9])([H:10])[C@@:6]12[H:11],16.545057060327302
[O+:1](=[C-:2][C:3]#[C:4][H:7])[C:5]#[N:6]>>[O:1]=[C:2]([C:3]#[C:4][H:7])[C:5]#[N:6],27.869539571694617
[C:1]([O:2][C:3]([C:4]([H:11])([H:12])[H:13])([C:5]([H:14])([H:15])[H:16])[C:6]#[N:7])([H:8])([H:9])[H:10]>>[C:1]([O:2][H:10])([N:7]=[C:6]=[C:3]([C:4]([H:11])([H:12])[H:13])[C:5]([H:14])([H:15])[H:16])([H:8])[H:9],99.4262467091612
[C:1]1([H:8])([H:9])[C:2]([H:10])([H:11])[C:3]([O-:4])=[C+:5][N:6]1[H:7]>>[C:1]([C:2]([C:3](=[O:4])[C:5]#[N:6])([H:10])[H:11])([H:7])([H:8])[H:9],52.080144764245006
[O:1]=[C:2]([N:3]([C:4]([C:5]#[N:6])([H:9])[H:10])[H:8])[H:7]>>[O+:1](=[C:2]([N:3]([C-:4]([H:9])[H:10])[H:8])[H:7])[C:5]#[N:6],92.4777844571607
[C:1]([C:2]1=[C:4]([C:5]([H:13])([H:14])[H:15])[C:3]1([H:11])[H:12])([H:7])([H:8])[H:9].[O:6]([H:10])[H:16]>>[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5]([H:13])([H:14])[H:15])[O:6][H:16])([H:7])([H:8])[H:9],50.6562910511533
[C:1](=[C:2]=[C:3]1[C@:4]([C:5]([H:11])([H:12])[H:13])([H:10])[O:6]1)([H:7])[H:9].[H:8][H:14]>>[C:1]([C:2]#[C:3][C@@:4]([C:5]([H:11])([H:12])[H:13])([O:6][H:14])[H:10])([H:7])([H:8])[H:9],59.3194457654689
[O:1]([C:6](=[C:5]=[C:2]1[C:3]([H:8])([H:9])[C:4]1([H:10])[H:11])[H:12])[H:7]>>[O:1]([C:2]1([C:5]#[C:6][H:12])[C:3]([H:8])([H:9])[C:4]1([H:10])[H:11])[H:7],65.38996538745626
